datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"COC(=O)C1=C[N+:21]2([H:20])CCC1CC2.Cn1c[nH+]cc1CC([NH3+])C(=O)[O-:10]>>COC(=O)C1=C[N:21]2CCC1CC2.Cn1c[nH+]cc1CC([NH3+])C(=O)[O:10][H:20] 10=20;20,21=21",
"O=C([O-])/C=C\c1c[nH]c[n+:21]1[H:20].c1ccc2c([O-:10])[nH+]cnc2c1>>O=C([O-])/C=C\c1c[nH]c[n:21]1.c1ccc2c([O:10][H:20])[nH+]cnc2c1 10=20;20,21=21",
"C[NH2+]CCCNc1c2ccccc2[n+:21]([H:20])c2cccc([N+](=O)[O-])c12.O=C(C[NH2:10])Nc1ccccc1>>C[NH2+]CCCNc1c2ccccc2[n:21]c2cccc([N+](=O)[O-])c12.O=C(C[NH2+:10][H:20])Nc1ccccc1 10=20;20,21=21",
"C[C@H](C1CC1C(=O)[O-:10])[C@H]1CC[C@H]2[C@@H]3[C@@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3CC[C@]12C.C[C@]12C[C@H](C(=O)[O:21][H:20])OC(=O)[C@H]1CC[C@@]1(C)[C@@H]2[C@H]2CCC1(O)C(=O)O2>>C[C@H](C1CC1C(=O)[O:10][H:20])[C@H]1CC[C@H]2[C@@H]3[C@@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3CC[C@]12C.C[C@]12C[C@H](C(=O)[O-:21])OC(=O)[C@H]1CC[C@@]1(C)[C@@H]2[C@H]2CCC1(O)C(=O)O2 10=20;20,21=21",
"C[Si](C)(C)[O-:10].O[O:21][H:20]>>C[Si](C)(C)[O:10][H:20].O[O-:21] 10=20;20,21=21",
"CC(C)N(CCC(C(=O)[NH:21][H:20])(c1ccccc1)c1ccccn1)C(C)C.OCCCCCc1ccc[n:10]c1>>CC(C)N(CCC(C(=O)[NH-:21])(c1ccccc1)c1ccccn1)C(C)C.OCCCCCc1ccc[n+:10]([H:20])c1 10=20;20,21=21",
"CC1(C)[C@@H]([NH3+])[C@@H]1[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CC1(C)[C@@H]([NH3+])[C@@H]1[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC(C(N)=O)S(=O)(=O)[N:21](C(N)=O)[H:20].S=C(NC1CCCCC1)[S-:10]>>CC(C(N)=O)S(=O)(=O)[N-:21]C(N)=O.S=C(NC1CCCCC1)[S:10][H:20] 10=20;20,21=21",
"C[N:10]1[C@@H]2C[C@@H]3C[C@H]1[C@@H](O)[C@H]2O3.O=[N+]([O-])c1ccc(C(=S)[N:21](c2ccccc2)[H:20])cc1>>C[N+:10]1([H:20])[C@@H]2C[C@@H]3C[C@H]1[C@@H](O)[C@H]2O3.O=[N+]([O-])c1ccc(C(=S)[N-:21]c2ccccc2)cc1 10=20;20,21=21",
"C[Si](C)(C)OC1C[N:10](Cc2ccccc2)C1.O=[N+]([O-])c1cccc(S(=O)[O:21][H:20])c1>>C[Si](C)(C)OC1C[N+:10](Cc2ccccc2)([H:20])C1.O=[N+]([O-])c1cccc(S(=O)[O-:21])c1 10=20;20,21=21",
"CC(C)P(=O)(C(C)C)[O-:10].NC(=O)CCCCCCCCC(=O)N[O:21][H:20]>>CC(C)P(=O)(C(C)C)[O:10][H:20].NC(=O)CCCCCCCCC(=O)N[O-:21] 10=20;20,21=21",
"C=C(C)C(=O)OCC[NH:10]C.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>C=C(C)C(=O)OCC[NH+:10](C)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"Cc1cc(-c2ccccc2)nn2cc(C)[n:10]c12.Oc1onc2c1CC[N+:21](Cc1ccccc1)([H:20])CC2>>Cc1cc(-c2ccccc2)nn2cc(C)[n+:10]([H:20])c12.Oc1onc2c1CC[N:21](Cc1ccccc1)CC2 10=20;20,21=21",
"Cc1[nH]c2ccccc2c1C(=O)[O:21][H:20].Cc1cncc[n:10]1>>Cc1[nH]c2ccccc2c1C(=O)[O-:21].Cc1cncc[n+:10]1[H:20] 10=20;20,21=21",
"C[C@H]1C[NH:10][C@@H](C)CN1.N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>C[C@H]1C[NH+:10]([H:20])[C@@H](C)CN1.N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"CCOC(=O)COc1ccc(C(=O)c2ccc([O:21][H:20])c(C[NH3+])c2)cc1.Cc1ccc(S(=O)(=O)[N-:10]CC[NH+](CC(=O)[O-])CC(=O)[O-])cc1>>CCOC(=O)COc1ccc(C(=O)c2ccc([O-:21])c(C[NH3+])c2)cc1.Cc1ccc(S(=O)(=O)[N:10](CC[NH+](CC(=O)[O-])CC(=O)[O-])[H:20])cc1 10=20;20,21=21",
"CCCCCCCCCCCCCCCCCCCCCC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCCCCCCCCCCCCCCCCCCCCC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[N+:21](C)([C@H]1CCC[C@@H]1C#N)[H:20].c1ccc2[nH+]c(-c3ccc[n:10]c3)[nH]c2c1>>C[N:21](C)[C@H]1CCC[C@@H]1C#N.c1ccc2[nH+]c(-c3ccc[n+:10]([H:20])c3)[nH]c2c1 10=20;20,21=21",
"CC(C)(C)[C@]1(O)CC[N+:21]2([H:20])C[C@@H](c3ccccc3)c3ccccc3[C@@H]2C1.[NH3+][C@@H](Cc1c[nH]c[nH+]1)C(=O)N[C@@H](Cc1c[nH]c[nH+]1)C(=O)[O-:10]>>CC(C)(C)[C@]1(O)CC[N:21]2C[C@@H](c3ccccc3)c3ccccc3[C@@H]2C1.[NH3+][C@@H](Cc1c[nH]c[nH+]1)C(=O)N[C@@H](Cc1c[nH]c[nH+]1)C(=O)[O:10][H:20] 10=20;20,21=21",
"O=C(c1ccc(-c2nnn[nH]2)cc1)[O-:10].O=C1CCC(C(=O)[O:21][H:20])N1>>O=C(c1ccc(-c2nnn[nH]2)cc1)[O:10][H:20].O=C1CCC(C(=O)[O-:21])N1 10=20;20,21=21",
"Cc1cnc2c([O-:10])cccc2c1.Nc1ccccc1[NH2+:21][H:20]>>Cc1cnc2c([O:10][H:20])cccc2c1.Nc1ccccc1[NH2:21] 10=20;20,21=21",
"C1C[NH:10]C1.N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>C1C[NH+:10]([H:20])C1.N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"NC(=[NH2+])Nc1nc(N)nc(NC(N)=[NH:10])n1.c1ccc2nc([O:21][H:20])[nH+]cc2c1>>NC(=[NH2+])Nc1nc(N)nc(NC(N)=[NH+:10][H:20])n1.c1ccc2nc([O-:21])[nH+]cc2c1 10=20;20,21=21",
"CC(=O)Nc1ccc([O-:10])c([N+](=O)[O-])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(=O)Nc1ccc([O:10][H:20])c([N+](=O)[O-])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cc1cc([O:21][H:20])[nH+]c2c1CCO2.O=C(C[N:10]1CCCCC1)Nc1ccccc1>>Cc1cc([O-:21])[nH+]c2c1CCO2.O=C(C[N+:10]1([H:20])CCCCC1)Nc1ccccc1 10=20;20,21=21",
"COc1ccc2c(c1)NCC[NH+:21]2[H:20].NC(=O)c1ccccc1C(=O)[O-:10]>>COc1ccc2c(c1)NCC[NH:21]2.NC(=O)c1ccccc1C(=O)[O:10][H:20] 10=20;20,21=21",
"C[NH:10]CC(O)CO.c1ccc2c(c1)CNCCC[NH+:21]([H:20])Cc1ccccc1OCCO2>>C[NH+:10](CC(O)CO)[H:20].c1ccc2c(c1)CNCCC[NH:21]Cc1ccccc1OCCO2 10=20;20,21=21",
"C[NH+]1[C@H]2CC=C(C(=O)[O:21][H:20])[C@@H]1CC2.[O-]c1ccc(CC[NH2:10])cc1>>C[NH+]1[C@H]2CC=C(C(=O)[O-:21])[C@@H]1CC2.[O-]c1ccc(CC[NH2+:10][H:20])cc1 10=20;20,21=21",
"[H:20][O:21]C(=O)COC.[CH-:10]1C2=C(C=CC=C2)SC1=O>>[H:20][CH:10]1C2=C(C=CC=C2)SC1=O.COCC(=O)[O-:21] 10=20;20,21=21",
